US07960436B2
b. Ethyl 1-(4-fluorophenylamino)-6-nitro-2,3-dihydro-1H-inden-5-ylcarbamate
A mixture of ethyl 6-nitro-1-oxo-2,3-dihydro-1H-inden-5-ylcarbamate (0.47 g, 1.8 mmol), 4-fluoroaniline (0.24 g, 2.2 mmol), and decaborane (200 mg) in 20 ml of anhydrous methanol was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was purified by column (hexane/EtOAc, 5:1) to give a pure product (0.51 g, 81%).

reactant | ethyl 6-nitro-1-oxo-2,3-dihydro-1H-inden-5-ylcarbamate | 1.8 mmol, 0.47 g | [N+](=O)([O-])C1=C(C=C2CCC(C2=C1)=O)NC(OCC)=O | C12H12N2O5
reactant | 4-fluoroaniline | 2.2 mmol, 0.24 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | decaborane | 200 mg | [B][B][B][B][B][B][B][B][B][B] | B10
solvent | methanol | 20 ml | CO | CH4O
product | Ethyl 1-(4-fluorophenylamino)-6-nitro-2,3-dihydro-1H-inden-5-ylcarbamate | 0.51 g, 81% | FC1=CC=C(C=C1)NC1CCC2=CC(=C(C=C12)[N+](=O)[O-])NC(OCC)=O | C18H18FN3O4
